US04093735
(c) 3-Amino-4-(4'-methylphenoxy)-5-sulphamoylbenzoic acid methyl ester.
45 g of 3-nitro-4-(4'-methylphenoxy)-5-sulphamoylbenzoic acid methyl ester are suspended in 150 ml of ethyl acetate and hydrogenated for 5 hours with Raney nickel at 50° C and a hydrogen pressure of 100 atmospheres gauge. After cooling, the Raney nickel is separated and the solution is concentrated to dryness. The 3-amino-4-(4'-methylphenoxy)-4-sulphamoylbenzoic acid methyl ester is recrystallised from methanol/H2O. Crystals melting at 183°-185° C.

reactant | 3-nitro-4-(4'-methylphenoxy)-5-sulphamoylbenzoic acid methyl ester | 45 g | COC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=C(C=C1)C)[N+](=O)[O-])=O | C15H14N2O7S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | Raney nickel | [Ni] | Ni
product | 3-Amino-4-(4'-methylphenoxy)-5-sulphamoylbenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)S(N)(=O)=O)OC1=CC=C(C=C1)C)N)=O | C15H16N2O5S
